US07700655B2
(2) 2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(2-methylthiazol-4-yl)benzamide
A mixture of 2-benzyloxy-5-(2-bromoacetyl)-N-[3,5-bis(trifluoromethyl)phenyl]benzamide (280 mg, 0.5 mmol), thioacetamide (41 mg, 0.55 mmol), sodium hydrogen carbonate (50 mg, 0.6 mmol) and ethanol (15 mL) was refluxed for 1 hour. The reaction mixture was poured into water, neutralized by sodium hydrogen carbonate, and extracted with ethyl acetate. After the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, the residue obtained by evaporation under reduced pressure was purified by chromatography on silica gel (hexane:ethyl acetate=4:1) to give the title compound (181 mg, 67.5%) as a white solid.

reactant | 2-benzyloxy-5-(2-bromoacetyl)-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | 0.5 mmol, 280 mg | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(CBr)=O | C24H16BrF6NO3
reactant | thioacetamide | 0.55 mmol, 41 mg | C(C)(=S)N | C2H5NS
reactant | sodium hydrogen carbonate | 0.6 mmol, 50 mg | C(O)([O-])=O.[Na+]
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Benzyloxy-N-[3,5-bis(trifluoromethyl)phenyl]-5-(2-methylthiazol-4-yl)benzamide | 181 mg, 67.5% | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C=1N=C(SC1)C | C26H18F6N2O2S
